US05532236
c. 1-Ethoxalylamino-4-(1H-imidazol-1-yl)-benzene
To a solution of 4-(1H-imidazol-1-yl)-aniline (14 g; ~88.2 mmol) in 400 ml dry tetrahydrofuran was added dry triethylamine (14.0 ml; ~102 mmol). Ethoxalyl chloride (11.2 ml; 100 mmol) was added dropwise and the reaction mixture was stirred for 2 h. The solvent was removed under reduced pressure, and the residue was stirred with water to give the title compound (19.2 g; 85%). M.p. 177°-180° C.

reactant | 4-(1H-imidazol-1-yl)-aniline | ~88.2 mmol, 14 g | N1(C=NC=C1)C1=CC=C(N)C=C1 | C9H9N3
reactant | triethylamine | ~102 mmol, 14.0 ml | C(C)N(CC)CC | C6H15N
reactant | Ethoxalyl chloride | 100 mmol, 11.2 ml | C(=O)(C(=O)OCC)Cl | C4H5ClO3
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 1-Ethoxalylamino-4-(1H-imidazol-1-yl)-benzene | 19.2 g, 85% | C(=O)(C(=O)OCC)NC1=CC=C(C=C1)N1C=NC=C1 | C13H13N3O3
